US03966953
SYNTHESIS OF 3-(2-METHOXYETHYL)-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE
A solution of 5.4 g 3-(2-methoxyethyl)-2-oximino-4-thiazolidinone in 50 ml methylene chloride, 4.0 g of methylisocyanate and 4 drops of triethylamine was kept in a pressure bottle for 16 hours at ambient temperature. On concentration under reduced pressure the reddish brown liquid was dissolved in methanol, decolorized with charcoal and concentrated. The desired produced was crystallized from methanol. Weight 5.5 g., m.p. 153°-155°C.

reactant | 3-(2-methoxyethyl)-2-oximino-4-thiazolidinone | 5.4 g | COCCN1C(SCC1=O)=NO | C6H10N2O3S
reactant | methylisocyanate | 4.0 g | CN=C=O | C2H3NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | 4 drops | C(C)N(CC)CC | C6H15N
product | 3-(2-METHOXYETHYL)-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE | COCCN1C(SCC1=O)=NOC(NC)=O | C8H13N3O4S
